US06562828B1
A solution of N-[4-cyano-2-[4-(1-tert-butoxycarbonylpiperidin-4-yloxy)phenoxyacetamido]phenyl]glycine tert-butyl ester (16.91 g) in acetic acid (500 ml) was stirred at 75° C. for 12 hours. The solvent was evaporated and to the obtained residue was added trifluoroacetic acid (100 ml), and the mixture was stirred at room temperature for 30 min. After completion of the reaction, the solvent was evaporated. To the obtained residue was added ice and then aqueous sodium hydroxide solution and the resultant solid was collected by filtration and washed successively with water and ethyl acetate to give N-[4-cyano-2-[4-(piperidin-4-yloxy)phenoxyacetamido]phenyl]glycine (8.642 g). In the same manner as in Example 1, Step 1, the title compound (9.506 g) was obtained from this compound, di-tert-butyl dicarbonate (6.96 g) and 1N aqueous sodium hydroxide solution (23.4 ml).

reactant | N-[4-cyano-2-[4-(1-tert-butoxycarbonylpiperidin-4-yloxy)phenoxyacetamido]phenyl]glycine tert-butyl ester | 16.91 g | C(C)(C)(C)OC(CNC1=C(C=C(C=C1)C#N)NC(COC1=CC=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O)=O | C31H40N4O7
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | N-[4-cyano-2-[4-(piperidin-4-yloxy)phenoxyacetamido]phenyl]glycine | 8.642 g | C(#N)C1=CC(=C(C=C1)NCC(=O)O)NC(COC1=CC=C(C=C1)OC1CCNCC1)=O | C22H24N4O5
